US07470679B2
To a well stirred solution of 3-amino-2-methylbenzyl alcohol (10 g, 72.9 mmol) in methanol (250 mL) was added a 1.0 M solution of iodine monochloride in dichloromethame (76.6 mL) dropwise over a period of 5 min at 0° C. The reaction mixture was then brought to room temperature and stirring continued for additional 2 h. The reaction mixture was then concentrated, diluted with dichloromethane (250 mL), washed with 10% aqueous sodium thiosulphate and dried (Na2SO4). The solvent was evaporated and the crude product was dissolved in THF (200 mL). Di-tert-butyl dicarbonate (15.9 g, 72.9 mmol) was added and the reaction mixture was refluxed for 48 h. The reaction mixture was then diluted with ether (400 mL) washed with 1 M HCl (2×100 mL) followed by brine and dried (Na2SO4). The solvent was removed and the desired product was crystallized from 20% ethyl acetate in hexane to give (3-hydroxymethyl-4-iodo-2-methyl-phenyl)-carbamic acid tert-butyl ester (12.5 g). The filtrate was then concentrated and the desired product was purified by flash chromatography (silica) using 30% ethyl acetate to give additional 2.5 g of (3-hydroxymethyl-4-iodo-2-methyl-phenyl)-carbamic acid tert-butyl ester. To a stirred solution of 3-hydroxymethyl-4-iodo-2-methyl-phenyl)-carbamic acid tert-butyl ester (14.5 g, 40 mmol) in dichloromethane (150 mL) was added acetic anhydride (7.5 mL, 80 mmol) and catalytic amount of 4-dimethylaminopyridine and stirred for 12 h at room temperature. The reaction mixture was then quenched with aqueous sodium hydrogencarbonate, brine and dried (Na2SO4). The solvent was removed and the crude product was purified by crystallization from dichloromethane and hexane to give acetic acid 3-tert-butoxycarbonylamino-6-iodo-2-methyl-benzyl ester (15.5 g, 94%). 1H NMR (500 MHz, CDCl3): in δ 7.71 (d, J=8.5 Hz, 1H), 7.25 (d, J=8.5 Hz, 1H), 5.30 (s, 2H), 2.28 (s, 3H), 2.08 (s, 3H), 1.50 (s, 9H); MS (ESI) 428 (M+Na); Rf=1.59.

reactant | 3-amino-2-methylbenzyl alcohol | 72.9 mmol, 10 g | NC=1C(=C(CO)C=CC1)C | C8H11NO
reactant | iodine monochloride | ICl | ClI
reactant | Di-tert-butyl dicarbonate | 72.9 mmol, 15.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 250 mL | CO | CH4O
solvent | ether | 400 mL | CCOCC | C4H10O
product | (3-hydroxymethyl-4-iodo-2-methyl-phenyl)-carbamic acid tert-butyl ester | 12.5 g | C(C)(C)(C)OC(NC1=C(C(=C(C=C1)I)CO)C)=O | C13H18INO3
